US07893056B2
A solution of [(2R)-3-(2-{2-chloro-5-fluoro-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (145 mg) in 4:1 AcOH:water (20 mL) was stirred at room temperature overnight. LCMS indicated ˜45% completion of the deprotection. Another portion of the mixed solvents (4:1 AcOH:water, 20 mL) was added, and stirring continued overnight. The solvents were then removed in vacuo, and the resulting crude product was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (45 mg, 36%). LCMS: (M+H)+: 498.2.

reactant | [(2R)-3-(2-{2-chloro-5-fluoro-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 145 mg | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N1CC(C1)(N1CCCC1)C | C27H41ClFN7O4
reactant | AcOH | CC(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 20 mL | O | H2O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[3-methyl-3-(1-pyrrolidinyl)-1-azetidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 45 mg, 36% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N1CC(C1)(N1CCCC1)C | C22H33ClFN7O3
